US09126931B2
8-Methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
(Method 3) To nitrobenzene (5 ml) and aluminum chloride (400 mg, 3 mmol), 4-methoxybenzoyl chloride (400 mg, 2.3 mmol) was added. After stirring for 30 min at room temperature, 2-(1-hydroxy-1-methyl-ethyl)-1H-indole-6-carbonitrile (Compound AA6, 200 mg, 1 mmol) was added followed by stirring at room temperature for 3 hr. Water was added to the reaction solution, which was then extracted with ethyl acetate. The organic layer was dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (127 mg, 40%).

reactant | nitrobenzene | 5 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | aluminum chloride | 3 mmol, 400 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-methoxybenzoyl chloride | 2.3 mmol, 400 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 2-(1-hydroxy-1-methyl-ethyl)-1H-indole-6-carbonitrile | 1 mmol, 200 mg | OC(C)(C)C=1NC2=CC(=CC=C2C1)C#N | C12H12N2O
solvent | Water | O | H2O
product | 8-Methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 127 mg, 40% | COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C20H16N2O2
